US07109219B2
Phenyl(4-chloropyridin-2-yl)-N-(phenoxycarbonyl)carbamate
2-Amino-4-chloropyridine (5.00 g, 38.9 mmol, WO 02/32872) was dissolved in tetrahydrofuran (200 ml); and triethylamine (17.9 ml, 128 mmol) was added thereto. While stirring with a waterbath, phenyl chloroformate (14.6 ml, 117 mmol) was added thereto dropwise; the reaction mixture was stirred at room temperature for 1.5 hours. The reaction mixture was partitioned between water and ethyl acetate; the organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was filtered by silica gel; the crystals obtained after the concentration were suspended in diethyl ether, filtered off, washed with diethyl ether, and dried to yield the title compound (3.77 g, 10.2 mmol, 26.3%) as pale yellow crystals. The mother liquor was concentrated under reduced pressure, which was then treated by the similar methods to yield the title compound (3.98 g, 10.5 mmol, 27.1%) as pale yellow crystals (secondary crystals).

reactant | 2-Amino-4-chloropyridine | 38.9 mmol, 5.00 g | NC1=NC=CC(=C1)Cl | C5H5ClN2
reactant | triethylamine | 128 mmol, 17.9 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 117 mmol, 14.6 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Phenyl(4-chloropyridin-2-yl)-N-(phenoxycarbonyl)carbamate | 10.2 mmol, 3.77 g, 26.3% | C1(=CC=CC=C1)OC(N(C(=O)OC1=CC=CC=C1)C1=NC=CC(=C1)Cl)=O | C19H13ClN2O4
